US04824954
Step B: Preparation of diethyl 3-benzylamino-2-trifluoroacetyl-2-pentenedioate hemihydrate:
To a 3 L 4-necked RB-flask equipped with mechanic stirrer, internal thermomemter, dropping funnel and nitrogen gas inlet was placed 252.7 g (0.87 mol) of product of Step A and 132 ml (96.1 g, 0.95 mol) of triethylamine in 1 L of anhydrous Et2O. This solution was cooled to 0° C. and 129 ml (191.7 g, 1.0 mol) of trifluoroacetic anhydride was added dropwise at such a rate that reaction temperature remained below 10° C. The reaction mixture was stirred at 0° C. for one-half hour and then warmed to room temperature slowly. This reaction was followed by TLC (10% EtOAc/cyclohexane) and usually was completed in 3 to 10 hours. When no more starting material was observed by TLC the mixture was poured into H2O and extracted twice with Et2O. The Et2O layer was dried (MgSO4) and solvent removed in vacuo affording a yellow solid. Crude solid was washed with hexane and dried in vacuo affording 240.84 g (72%) of product as a yellow solid; mp 63°-65° C.

reactant | triethylamine | 0.95 mol, 132 ml, 96.1 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.0 mol, 129 ml, 191.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | EtOAc cyclohexane | CCOC(=O)C.C1CCCCC1
reactant | H2O | O | H2O
reactant | Et2O | 1 L | CCOCC | C4H10O
product | diethyl 3-benzylamino-2-trifluoroacetyl-2-pentenedioate hemihydrate | 240.84 g, 72% | O.C(C1=CC=CC=C1)NC(=C(C(=O)OCC)C(C(F)(F)F)=O)CC(=O)OCC.C(C)OC(C(=C(CC(=O)OCC)NCC1=CC=CC=C1)C(C(F)(F)F)=O)=O | InChI=1S/2C18H20F3NO5.H2O/c2*1-3-26-14(23)10-13(22-11-12-8-6-5-7-9-12)15(17(25)27-4-2)16(24)18(19,20)21;/h2*5-9,22H,3-4,10-11H2,1-2H3;1H2
